US07943607B2
3-[(2,2-Difluoro-1,3-benzodioxol-5-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (0.20 g, 0.493 mmol), (2,2-difluoro-1,3-benzodioxol-5-yl)boronic acid (303 mg, 1.5 mmol), copper (II) acetate (0.202 g, 1.11 mmol), triethylamine (0.52 mL, 3.71 mmol) and freshly activated 4 Å molecular sieves (1 g) in DCM (40 mL) was stirred at ambient temperature and under ambient atmosphere for 2 days. The reaction mixture was filtered through celite, washed with DCM (2×10 mL), the DCM removed in vacuo. 3.5M Hydrochloric acid (0.5 mL) was added to a solution of the residual oil dissolved in methanol (5 mL) and the mixture stirred at room temperature for 20 minutes. The solution was neutralised with saturated sodium bicarbonate solution, the methanol removed in vacuo and the residual solution partitioned between ethyl acetate (50 mL) and water (10 mL). The ethyl acetate layer was separated, washed with brine, dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with 3% methanol in DCM, to give the desired compound (3.1 mg).

reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.493 mmol, 0.20 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | (2,2-difluoro-1,3-benzodioxol-5-yl)boronic acid | 1.5 mmol, 303 mg | FC1(OC2=C(O1)C=CC(=C2)B(O)O)F | C7H5BF2O4
reactant | triethylamine | 3.71 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 1.11 mmol, 0.202 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-[(2,2-Difluoro-1,3-benzodioxol-5-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 3.1 mg | FC1(OC2=C(O1)C=CC(=C2)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](CO)C)F | C21H19F2N3O6
